US04939126
2-Oxo-N-[(pyrrolizidin-7a-yl)(trimethylsilyl)methyl]-1-pyrrolidineacetamide
A mixture of 150 mg (0.706 mmol) of 7a-[(amino)(trimethylsilyl)methyl]pyrrolizidine and 133 mg (0.777 mmol) of ethyl 2-oxo-1-pyrrolidineacetate was stirred at 80° C. for 5 hours. After cooled, the reaction mixture was chromatographed on alumina column to afford 95.3 mg

reactant | 7a-[(amino)(trimethylsilyl)methyl]pyrrolizidine | 0.706 mmol, 150 mg | NC(C12CCCN2CCC1)[Si](C)(C)C | C11H24N2Si
reactant | ethyl 2-oxo-1-pyrrolidineacetate | 0.777 mmol, 133 mg | O=C1N(CCC1)CC(=O)OCC | C8H13NO3
product | 2-Oxo-N-[(pyrrolizidin-7a-yl)(trimethylsilyl)methyl]-1-pyrrolidineacetamide | O=C1N(CCC1)CC(=O)NC([Si](C)(C)C)C12CCCN2CCC1 | C17H31N3O2Si
